US08633173B2
To [8-(2-methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridine-2-yl]-[3-(2-methylsulfanyl-ethyl)-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl]-amine (0.173 g, 0.376 mmol) in methanol (5 mL) was added oxone (0.694 g, 1.13 mmol) in water (2.5 mL) and was stirred at room temperature for 2 hours and concentrated. The reaction was partitioned between dichloromethane/1N sodium carbonate, washed with water/brine, dried over sodium sulfate, and concentrated. The product was purified using Prep TLC plates (5% methanol in dichloromethane) and concentrated to give [3-(2-methanesulfonyl-ethyl)-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl]-[8-(2-methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridine-2-yl]-amine (0.025 g, 14%). MP=91-94° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.52 (s, 1H), 8.75 (d, 1H), 7.55 (m, 2H), 7.40 (m, 2H), 7.32 (s, 1H), 7.18 (d, 1H), 7.05 (m, 3H), 3.75 (s, 3H), 3.28 (m, 2H), 3.18 (s, 3H), 2.85 (m, 2H), 2.75 (m, 4H), 2.58 (m, 4H): MS=492 (MH)+.

reactant | [8-(2-methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridine-2-yl]-[3-(2-methylsulfanyl-ethyl)-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl]-amine | 0.376 mmol, 0.173 g | COC1=C(C=CC=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC1=C(CCN(CC1)CCSC)C=C2 | C26H29N5OS
reactant | oxone | 1.13 mmol, 0.694 g | OOS(=O)[O-].[K+]
reactant | methanol | 5 mL | CO | CH4O
solvent | water | 2.5 mL | O | H2O
product | [3-(2-methanesulfonyl-ethyl)-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl]-[8-(2-methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridine-2-yl]-amine | 0.025 g, 14% | CS(=O)(=O)CCN1CCC2=C(CC1)C=CC(=C2)NC2=NN1C(C(=CC=C1)C1=C(C=CC=C1)OC)=N2 | C26H29N5O3S
